US05981544
0.55 g (5.08 mmol) of 2-amino-5-methylpyridine is added to a suspension of 0.45 g (2.16 mmol) of 3-chloro-1,4-dihydro-1,4-dioxo-2-hydroxynaphthalene in 15 mL of 1,2-dimethoxyethane. The reaction medium is brought to reflux for 21 h. After complete cooling, it is diluted with 120 mL of dichloromethane. The organic phase is washed successively with a saturated solution of sodium hydrogen carbonate and sodium chloride, then dried on sodium sulfate and evaporated under reduced pressure. The raw product obtained is purified on a medium-pressure column (support: silica; eluent: dichloromethane/heptane/ethyl acetate, 68/40/2) to produce 0.096 g of 6,11-dihydro-6,11-dioxo-2-methyl-naphtho[2',3':4,5]imidazo[1,2-a]pyridine in the form of yellow crystals after decoloration with animal black.

reactant | 2-amino-5-methylpyridine | 5.08 mmol, 0.55 g | NC1=NC=C(C=C1)C | C6H8N2
reactant | 3-chloro-1,4-dihydro-1,4-dioxo-2-hydroxynaphthalene | 2.16 mmol, 0.45 g | ClC1=C(C(C2=CC=CC=C2C1=O)=O)O | C10H5ClO3
solvent | 1,2-dimethoxyethane | 15 mL | COCCOC | C4H10O2
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
product | 6,11-dihydro-6,11-dioxo-2-methyl-naphtho[2',3':4,5]imidazo[1,2-a]pyridine | 0.096 g, Yield: 17% | O=C1C=2C=CC=CC2C(C2=C1N=C1N2C=C(C=C1)C)=O | C16H10N2O2
